US04145432
A solution of 2-methoxybenzaldehyde (2.7228 g), ethyl 4,4-diethoxyacetoacetate (4.3648 g) and piperidine (4 or 5 drops) in benzene (20 ml) was refluxed under azeotropic dehydration for 3 hours. The resultant solution was washed with water and dried. The solvent was removed from the extract to give oily ethyl 2-(2-methoxybenzylidene)-4,4-diethoxyacetoacetate. The mixture of the compound obtained above and ethyl 3-aminocrotonate (2.5832 g) was heated in an oil bath (about 100° C.) for 7 hours. After cooling, the reaction mixture was extracted with diethyl ether, and the extract was washed with water twice and dried over magnesium sulfate. The solvent was removed to give a red oil. The oil was purified by a column chromatography on silica gel with an eluent (benzene : ethyl acetate = 20:1) to give diethyl 2-methyl-4-(2-methoxyphenyl)-6 -diethoxymethyl-1,4-dihydropyridine3,5-dicarboxylate (5.0779 g). The product was recrystallized from n-hexane to give pale yellowish prisms, m.p. 105 to 107° C.

reactant | 2-methoxybenzaldehyde | 2.7228 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | ethyl 4,4-diethoxyacetoacetate | 4.3648 g | C(C)OC(C(CC(=O)OCC)=O)OCC | C10H18O5
catalyst | piperidine | 5 drops | N1CCCCC1 | C5H11N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-(2-methoxybenzylidene)-4,4-diethoxyacetoacetate | COC1=C(C=C(C(=O)OCC)C(=O)C(OCC)OCC)C=CC=C1 | C18H24O6
